US05034530
Ethyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate
3-Methyl-2-quinoxalinol (2.84 g, 18 mmol) was dissolved in dry DMF (40 ml) and charged with sodium hydride (55% oil dispersion, 1.0 g, 23 mmol). The resulting solution was cooled under nitrogen to -20° C., whereafter chlorodiethylphosphate (3.3 ml, 23 mmol) was added. The reaction mixture was allowed to reach room temperature, and was then added a -30° C. cold solution of ethyl isocyanoacetate (2.6 g, 23 mmol) and potassium t-butoxide (2.6 g, 23 mmol) in dry DMF (25 ml). The mixture was stirred for 45 min. at ambient temperature, whereafter acetic acid (3 ml) was added. The crystalline precipitate was collected by filtration, rinsed with DMF and water and dried, yielding 2.5 g of the title compound. M.p. 192°-193° C. (Compound 1)

reactant | 3-Methyl-2-quinoxalinol | 18 mmol, 2.84 g | CC=1C(=NC2=CC=CC=C2N1)O | C9H8N2O
reactant | sodium hydride | 23 mmol, 1.0 g | [H-].[Na+]
reactant | chlorodiethylphosphate | 23 mmol, 3.3 ml | CCOP(=O)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 23 mmol, 2.6 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium t-butoxide | 23 mmol, 2.6 g | CC(C)([O-])C.[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | Ethyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate | 2.5 g | CC=1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)OCC | C14H13N3O2
